USRE030755
To this was added 20 ml of water and the resulting system was heated to 90° to 100° C., and the system agitated for about 15 minutes. The resulting slurry was filtered and the precipitate on the filter paper was washed with 25 cc of water which had been heated to 60° C. The precipitate was then added to 25 cc of water containing 3.1 grams Na2CO3.H2O. This was 0.0248 mols of sodium carbonate and represented 68.0 percent of the stoichiometric amount required to replace with sodium all of the calcium present in the carboxymethoxy succinic acid calcium salt content of the starting material. This formed a solution of carboxymethoxy succinic acid sodium salt containing a precipitate.

reactant | sodium carbonate | 0.0248 mols | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium | [Na] | Na
reactant | calcium | [Ca] | Ca
reactant | carboxymethoxy succinic acid calcium salt | [Ca+2].C(=O)(O)COC(C(=O)[O-])CC(=O)[O-]
solvent | water | 20 ml | O | H2O
product | carboxymethoxy succinic acid sodium salt | [Na+].C(=O)(O)COC(C(=O)[O-])CC(=O)[O-].[Na+] | InChI=1S/C6H8O7.2Na/c7-4(8)1-3(6(11)12)13-2-5(9)10;;/h3H,1-2H2,(H,7,8)(H,9,10)(H,11,12);;/q;2*+1/p-2
